US06107036
2-(3'-Methoxyphenyl)-5,5-dimethyl-oxazolin-4-one
50 mmol acetone is added at 0° C. to a solution of 57 mmol potassium cyanide in 50 ml water. 57 mmol 3-methoxybenzoyl chloride is added dropwise within 90 minutes at room temperature while stirring vigorously. After stirring for a further 90 min at 0° C. it is allowed to stand for 10 h at room temperature. It is admixed with 100 ml diethyl ether and the mixture was shaken out twice with 50 ml saturated sodium hydrogen carbonate solution each time and then with 100 ml water. The organic phase is separated and dried over sodium sulfate. The solvent is removed by distillation. The oily residue (6.6 g 3-methoxybenzoic acid-2'-cyanoisopropyl ester) is dried in a high vacuum and subsequently introduced into a mixture of 52 ml acetanhydride containing 10.4 ml 35% aqueous tetrafluoroboric acid. It is heated for 1 hour to boiling under reflux and after cooling to room temperature it is admixed with 300 ml ether. The precipitate that forms is suspended in 70 ml toluene. 70 mmol triethylamine is added to the suspension and it is stirred for 1 hour at room temperature. It is filtered. The filtrate is concentrated to dryness in a vacuum. The oily residue is separated by column chromatography (silica gel: ethyl acetate/petroleum ether 1:1).

reactant | acetone | 50 mmol | CC(=O)C | C3H6O
reactant | potassium cyanide | 57 mmol | [C-]#N.[K+]
reactant | 3-methoxybenzoyl chloride | 57 mmol | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | triethylamine | 70 mmol | C(C)N(CC)CC | C6H15N
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(3'-Methoxyphenyl)-5,5-dimethyl-oxazolin-4-one | COC=1C=C(C=CC1)C=1OC(C(N1)=O)(C)C | C12H13NO3
